US07381719B2
6-(4-Cyano-phenoxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
Combine in a round bottom flask equipped with a Dean Stark trap 6-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (1.59 g, 6.36 mmol), toluene, dimethylacetamide (10 mL and 30 mL respectively), K2CO3 (1.25 g, 9.04 mmol), and 4-fluorobenzonitrile (0.72 g, 6.04 mmol). Reflux the reaction under a nitrogen atmosphere for 4 hours then cool to room temperature. Add water to the reaction mixture and extract the product from the water layer using ethyl acetate. The product, a white solid, precipitates out from the ethyl acetate to afford 1.93 g, 5.5 mmol (87% yield) of the title compound: 1H NMR (500 MHz, CDCl3); 1.5 (9H, s), 2.75-2.85 (2H, m), 3.6-3.7 (2H, m), 4.5 (2H, s), 6.8-6.9 (2H, m), 6.9-7.0 (2H, m), 7.1-7.2 (1H, m), 7.5-7.6 (2H, m); MS m/z 249 (M−CO2t-Bu).

reactant | 6-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 6.36 mmol, 1.59 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)O | C14H19NO3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | K2CO3 | 9.04 mmol, 1.25 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-fluorobenzonitrile | 6.04 mmol, 0.72 g | FC1=CC=C(C#N)C=C1 | C7H4FN
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 6-(4-Cyano-phenoxy)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 5.5 mmol, 1.93 g, 87% yield | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)OC1=CC=C(C=C1)C#N | C21H22N2O3
